US06982348B2
(4-{(1RS,2SR)-2-[(6,7-dihydro-5H-benzo[a][7]annulen-1-ylcarbonyl)amino]-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenoxy)ethyl acetate
To a solution of N-{(1RS,2SR)-2-hydroxy-2-(4-hydroxyphenyl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide (600 mg, 1.13 mmol) in N,N-dimethylformamide (20 ml) were added potassium carbonate (470 mg, 3.40 mmol) and ethyl bromoacetate (570 mg, 3.40 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1). Recrystallization from ethyl acetate-hexane gave the objective substance (167 mg, 24%).

reactant | N-{(1RS,2SR)-2-hydroxy-2-(4-hydroxyphenyl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide | 1.13 mmol, 600 mg | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)C2=CC=C(C=C2)O | C29H27F4NO4
reactant | potassium carbonate | 3.40 mmol, 470 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 3.40 mmol, 570 mg | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | (4-{(1RS,2SR)-2-[(6,7-dihydro-5H-benzo[a][7]annulen-1-ylcarbonyl)amino]-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenoxy)ethyl acetate | C(C)(=O)OCCOC1=CC=C(C=C1)C(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C1=CC=CC2=C1C=CCCC2)O | C33H33F4NO6
